US05468721
1.5 g of methyl 2-[(4,6-dimethoxy-2-pyrimidyl)methyloxy]benzoate was dissolved in 10 ml of ethanol. 10 ml of water and then 7 ml of 1N aqueous potassium hydroxide solution were added to this solution, and the mixture was stirred until it got to be clear (about 4 hours). The reaction solution was diluted with water and washed with ether, the water layer was neutralized with 1N hydrochloric acid and extracted with chloroform, the extract was dried over anhydrous magnesium sulfate, and the solvent was distilled off to obtain 1.3 g of 2-[(4,6-dimethoxy-2-pyrimidyl)methyloxy]benzoic acid (yield 91%).

reactant | methyl 2-[(4,6-dimethoxy-2-pyrimidyl)methyloxy]benzoate | 1.5 g | COC1=NC(=NC(=C1)OC)COC1=C(C(=O)OC)C=CC=C1 | C15H16N2O5
reactant | potassium hydroxide | 1N, 7 ml | [OH-].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | water | 10 ml | O | H2O
product | 2-[(4,6-dimethoxy-2-pyrimidyl)methyloxy]benzoic acid | 1.3 g, yield 91% | COC1=NC(=NC(=C1)OC)COC1=C(C(=O)O)C=CC=C1 | C14H14N2O5
